US04843087
To a stirred solution of 46.1 ml of diisopropylamine in 100 ml of tetrahydrofuran at 0°-5° C. was added 126 ml of 2.6M n-butyllithium in hexane over a period of about 20 minutes. The mixture was cooled to -50° C., 31.95 g of 3,5-dimethylisoxazole was added and the mixture stirred for 30 minutes. The latter mixture was cooled to -78° C. and 101.6 ml of 1,6-dibromohexane was added dropwise. After the addition was complete, the temperature of the reaction mixture was allowed to rise to room temperature and kept there for about 40 hours. Saturated aqueous ammonium chloride solution was then added and the mixture extracted with ethyl acetate. The ethyl acetate extracts were dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was distilled to remove excess dibromide (b.p. 50° C., 0.5 mm) and suspended in hexane. The suspension was decolorized with charcoal, filtered and cooled in a refrigerator overnight. The mixture was filtered and the filtrate concentrated in vacuo to give 57 g of 5-(7-bromoheptyl)-3-methylisoxazole as a colorless oil.

reactant | diisopropylamine | 46.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.6M, 126 ml | C(CCC)[Li]
reactant | 3,5-dimethylisoxazole | 31.95 g | CC1=NOC(=C1)C | C5H7NO
reactant | 1,6-dibromohexane | 101.6 ml | BrCCCCCCBr | C6H12Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-(7-bromoheptyl)-3-methylisoxazole | 57 g | BrCCCCCCCC1=CC(=NO1)C | C11H18BrNO
